US08378104B2
1-{4-[4-(7-amino-2-thieno[2,3-c]pyridin-3-yl-furo[2,3-c]pyridin-4-yl)-pyrazol-1-yl]-piperidin-1-yl}-3-phenyl-propan-1-one
To a solution of 4-(1-piperidin-4-yl-1H-pyrazol-4-yl)-2-thieno[2,3-c]pyridin-3-yl-furo[2,3-c]pyridin-7-ylamine (20.8 mg, 0.05 mmol) in DMF (0.5 mL) was added diisopropylethylamine (0.05 mL, 6.5 mmol), dihydrocinnamic acid (0.06 mmol), and N-(3-dimethylaminopropyl)-N′-ethylcarbodimide hydrochloride (13.5 mg, 0.07 mmol). The resulting solution was allowed to stir at room temperature overnight. The mixture was concentrated and then purified by MDP to afford the title compound. 1H NMR (400 MHz, CD3OD): δ 9.50 (s, 1H), 9.10 (s, 1H), 8.59 (d, J=6.1 Hz, 1H), 8.72 (d, J=6.1 Hz, 1H), 8.28 (s, 1H), 8.05 (s, 1H), 7.88 (s, 1H), 7.87 (s, 1H), 7.28 (s, 5H), 4.54 (m, 1H), 4.04 (m, 2H), 3.10 (m, 2H), 2.99 (m, 2H), 2.67 (m, 2H), 2.19 (m, 2H), 1.95 (m, 2H); MS (ESI): 549.64 [M+H]+; HPLC tR=0.86 min (HPLC: Analytical—2 min).

reactant | 4-(1-piperidin-4-yl-1H-pyrazol-4-yl)-2-thieno[2,3-c]pyridin-3-yl-furo[2,3-c]pyridin-7-ylamine | 0.05 mmol, 20.8 mg | N1CCC(CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)C2=CSC1=CN=CC=C12 | C22H20N6OS
reactant | diisopropylethylamine | 6.5 mmol, 0.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dihydrocinnamic acid | 0.06 mmol | C(CCC1=CC=CC=C1)(=O)O | C9H10O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodimide hydrochloride | 0.07 mmol, 13.5 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-{4-[4-(7-amino-2-thieno[2,3-c]pyridin-3-yl-furo[2,3-c]pyridin-4-yl)-pyrazol-1-yl]-piperidin-1-yl}-3-phenyl-propan-1-one | NC=1N=CC(=C2C1OC(=C2)C2=CSC1=CN=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(CCC1=CC=CC=C1)=O | C31H28N6O2S
